US08471004B2
B) (2S,5S)-2-But-3-enyl-5-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of (S)-2-tert-butoxycarbonylamino-5-oxo-non-8-enoic acid benzyl ester in DCM (5 mL) was added at −78° C. to a solution of triphenylsilane (496 mg, 1.90 mmol) and tris(pentafluorophenyl)borane (55 mg, 0.11 mmol) in DCM (5 mL), then after 30 min the cooling bath was removed and the reaction mixture was allowed to reach room temperature over 2 h. After cooling to −78° C. a solution of triphenylsilane (496 mg, 1.90 mmol) and tris(pentafluorophenyl)borane (55 mg, 0.11 mmol) in DCM (5 mL) was added to the reaction mixture, then after 30 min the cooling bath was removed. The reaction mixture was stirred at room temperature for 72 h, then treated with Et3N (1 mL), then after 20 min partitioned between sat. aq. ammonium chloride solution and EtOAc. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and evaporated. Chromatography (SiO2; heptane/EtOAc3:1) afforded an inseparable mixture of (2S,5S)-5-but-3-enyl-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester and unspecified reagents. This mixture was dissolved in THF (2.5 mL) and added dropwise at 0° C. to a suspension of lithium aluminum hydride (65 mg, 1.71 mmol) in THF (2.5 mL), then after 20 min excess reagent was destroyed by addition of water (2 mL), EtOAc and 2 M aq. sodium hydroxide solution (1 mL). The reaction mixture was filtered through diatomaceous earth, the filtrate was washed with brine, dried over magnesium sulfate, filtered, and evaporated. Chromatography (SiO2; heptane/EtOAc 3:1) afforded the title compound (179 mg, 82%). Colourless oil, MS: 256.3 (M+H)+.

reactant | (S)-2-tert-butoxycarbonylamino-5-oxo-non-8-enoic acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CCC(CCC=C)=O)NC(=O)OC(C)(C)C)=O | C21H29NO5
reactant | triphenylsilane | 1.90 mmol, 496 mg | C1(=CC=CC=C1)[SiH](C1=CC=CC=C1)C1=CC=CC=C1 | C18H16Si
reactant | tris(pentafluorophenyl)borane | 0.11 mmol, 55 mg | FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C18BF15
reactant | triphenylsilane | 1.90 mmol, 496 mg | C1(=CC=CC=C1)[SiH](C1=CC=CC=C1)C1=CC=CC=C1 | C18H16Si
reactant | tris(pentafluorophenyl)borane | 0.11 mmol, 55 mg | FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C18BF15
reactant | (2S,5S)-5-but-3-enyl-pyrrolidine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC[C@@H]1CCC=C)C(=O)OCC1=CC=CC=C1 | C21H29NO4
reactant | lithium aluminum hydride | 1.71 mmol, 65 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | (2S,5S)-2-But-3-enyl-5-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 179 mg, 82% | C(C)(C)(C)OC(=O)N1[C@H](CC[C@H]1CO)CCC=C | C14H25NO3
